US07745641B2
In a similar manner to Step 1 of Example 227, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.115 g, 0.249 mmol) was dissolved in acetonitrile (5.0 mL), and the solution was treated with triethylamine (0.104 mL, 0.747 mmol) and 2-cyanobenzenesulfonyl chloride (0.0750 g, 0.374 mmol) to obtain 4-(2-cyanobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.137 g, yield 88%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.249 mmol, 0.115 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.747 mmol, 0.104 mL | C(C)N(CC)CC | C6H15N
reactant | 2-cyanobenzenesulfonyl chloride | 0.374 mmol, 0.0750 g | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 4-(2-cyanobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.137 g, yield 88% | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C34H34N4O6S
